US09328067B2
N-[5-chloro-2-({3-[(methylsulfonyl)amino]benzyl}sulfinyl)phenyl]-1-benzofuran-2-sulfonamide
To a solution of N-[5-chloro-2-({3-[(methylsulfonyl)amino]benzyl}sulfanyl)phenyl]-1-benzofuran-2-sulfonamide (124 mg, 0.237 mmol) in CH2Cl2 (5 ml) was added mCPBA (57 mg, ˜0.237 mmol) and the reaction was stirred at room temperature for 1 hour. The reaction mixture was directly loaded onto Celite and purified by flash column chromatography on silica gel (50-100% EtOAc in hexane) to yield the title compound (78 mg, 61%).

reactant | N-[5-chloro-2-({3-[(methylsulfonyl)amino]benzyl}sulfanyl)phenyl]-1-benzofuran-2-sulfonamide | 0.237 mmol, 124 mg | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)SCC2=CC(=CC=C2)NS(=O)(=O)C | C22H19ClN2O5S3
reactant | mCPBA | ˜0.237 mmol, 57 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[5-chloro-2-({3-[(methylsulfonyl)amino]benzyl}sulfinyl)phenyl]-1-benzofuran-2-sulfonamide | 78 mg, 61% | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)S(=O)CC2=CC(=CC=C2)NS(=O)(=O)C | C22H19ClN2O6S3
